US07459263B2
First, butyl 4-iodobenzoate was prepared by the procedure for dibutyl 4,4′-biphenyldicarboxylate (CS-6), using 25.0 g (101 mmol) of 4-iodobenzoic acid, 29.9 g (403 mmol) of n-butanol, 100 mL of toluene, and 1.0 g of p-toluenesulfonic acid. The product was purified by vacuum distillation, collecting the fraction bp 110-116° C./0.2 mm. A colorless oil was obtained, mass: 29.88 g (97% of theory). 1H NMR (CDCl3): δ 0.97 (t, 3H), 1.5 (m, 2H), 1.8 (m, 2H), 4.31 (q, 2H), 7.76 (m, 4H).

reactant | dibutyl 4,4′-biphenyldicarboxylate | C1(=CC=C(C=C1)C(=O)OCCCC)C1=CC=C(C=C1)C(=O)OCCCC | C22H26O4
reactant | 4-iodobenzoic acid | 101 mmol, 25.0 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | n-butanol | 403 mmol, 29.9 g | C(CCC)O | C4H10O
reactant | p-toluenesulfonic acid | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | butyl 4-iodobenzoate | IC1=CC=C(C(=O)OCCCC)C=C1 | C11H13IO2
